US06548499B1
N,N-Dimethyl-N′-(3-pyridin-2-yl-7,8-dihydro-6H-cyclopenta[g]quinoxalin-2yl)-cyclohexane-1,4-diamine
A solution of 2-chloro-3-pyridin-2-yl-7,8-dihydro-6H-cyclopenta[g]quinoxaline (0.5 g) and N,N-dimethyl-cyclohexane-1,4-diamine (0.51 g) in toluene (30 mL) was refluxed under nitrogen atmosphere for 16 hours. The reaction was cooled, filtered, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1:19 methanol/dichloromethane) to give a yellow solid. Recrystallization from methanol and water gave the product as yellow crystals ( 0.3 g); mp 158-161° C.

reactant | 2-chloro-3-pyridin-2-yl-7,8-dihydro-6H-cyclopenta[g]quinoxaline | 0.5 g | ClC=1C(=NC=2C=C3C(=CC2N1)CCC3)C3=NC=CC=C3 | C16H12ClN3
reactant | N,N-dimethyl-cyclohexane-1,4-diamine | 0.51 g | CN(C1CCC(CC1)N)C | C8H18N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-N′-(3-pyridin-2-yl-7,8-dihydro-6H-cyclopenta[g]quinoxalin-2yl)-cyclohexane-1,4-diamine | 0.3 g | CN(C1CCC(CC1)NC=1C(=NC=2C=C3C(=CC2N1)CCC3)C3=NC=CC=C3)C | C24H29N5
